US06506936B1
6.11 Synthesis of N-Hydroxy-3-[(4-methoxyphenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide (FG 206)
Freshly prepared hydroxylamine reagent (6 mL; 6 mmol) was added to ethyl 3-[(4-methoxyphenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionate (587 mg; 1.40 mmol) and the resulting mixture stirred overnight at room temperature. The mixture was poured into 1 N HCl (40 mL) and extracted with CH2Cl2 (2×40 mL). The combined extracts were washed with saturated aqueous NaCl (40 mL), dried over MgSO4, and evaporated under reduced pressure to give crude product. Trituration with diethyl ether afforded 408 mg (71%) of the title compound as a white solid. 300 MHz 1H-NMR (DMSO-d6): δ 2.24 (t, 2H), 2.68 (t, 2H), 3.21 (t, 2H), 3.31 (m, 2H), 3.72 (s, 3H), 3.84 (s, 3H), 6.84 (d, 2H), 7.11 (d, 4H), 7.71 (d, 2H), 8.78 (s, 1H), 10.49 (s, 1H).

reactant | hydroxylamine | 6 mmol, 6 mL | NO | H3NO
reactant | ethyl 3-[(4-methoxyphenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionate | 1.40 mmol, 587 mg | COC1=CC=C(CCN(CCC(=O)OCC)S(=O)(=O)C2=CC=C(C=C2)OC)C=C1 | C21H27NO6S
reactant | HCl | 1 N, 40 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-Hydroxy-3-[(4-methoxyphenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide | 408 mg, 71% | ONC(CCN(S(=O)(=O)C1=CC=C(C=C1)OC)CCC1=CC=C(C=C1)OC)=O | C19H24N2O6S
